US05688946
3.28 g (15.1 mmol) of di-tert-butyl dicarbonate are added dropwise at 0° to a mixture of 3.17 g (13.7 mmol) of 2-(benzylthio)-2-methylpropylamine hydrochloride [B. J. Sweetmann et al., J. Med. Chem. 14, 868 (1971)] and 1.45 g (14.3 mmol) of triethylamine in 30 ml of dimethylformamide. Subsequently, the reaction mixture is stirred at room temperature overnight and thereafter evaporated in a high vacuum. The residue is extracted three times with 50 ml of ether each time. The organic solutions are combined, washed with 50 ml of water, dried over sodium sulphate and evaporated. Chromatography of the thus-obtained crude product (4.18 g) on silica gel with a 6:1 mixture of hexane and ether as the eluent yields 3.5 g of tert-butyl [2-(benzylthio)-2-methylpropyl]carbamate as a colourless oil; MS: 239 (M-C4H8)+.

reactant | di-tert-butyl dicarbonate | 15.1 mmol, 3.28 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-(benzylthio)-2-methylpropylamine hydrochloride | 13.7 mmol, 3.17 g | Cl.C(C1=CC=CC=C1)SC(CN)(C)C
reactant | triethylamine | 14.3 mmol, 1.45 g | C(C)N(CC)CC | C6H15N
reactant | hexane | CCCCCC | C6H14
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | tert-butyl [2-(benzylthio)-2-methylpropyl]carbamate | 3.5 g | C(C1=CC=CC=C1)SC(CNC(OC(C)(C)C)=O)(C)C | C16H25NO2S
